US05783605
phenylacetamide (3-1)
Dissolved 15 g (0.1 mol) of phenylacetyl chloride in 100 ml of benzene. While stirring on a magnetic stirrer, introduced ammonia gas into the benzene solution at 20°-30° C. After reaction, the solid was collected by filtration, washed with water, and dried. The filtrate was washed in a separators funnel with water, and dehydrated with anhydrous magnesium sulfate. The solution was evaporated to dryness in a rotary evaporator. The residue together with the solid above obtained was purified by column chromatography employing silica gel-chloroform system, and recrystallization with chloroform to yield white crystal as compound 3-1. Yield, 11 g (80%).

reactant | phenylacetyl chloride | 0.1 mol, 15 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | ammonia | N | H3N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | phenylacetamide | C1(=CC=CC=C1)CC(=O)N | C8H9NO
